US06071928
3-(2-Methoxy-5-(5-trifluoromethyl-1H-tetrazol-1-yl)phenyl)-1-oxa-7-azaspiro[4,5]dec-3-ene hydrochloride
1-Chloroethyl chloroformate (1.9 ml, 17.6 mmol) was added dropwise at 4° C. to a solution of 7-benzyl-3-(2-methoxy-5-(5-trifluoromethyl-1H-tetrazol-1-yl)phenyl)-1-oxa-7-azaspiro[4,5]dec-3-ene (free base of Ex. 2; 6.16 g, 13.07 mmol) in dichloromethane (60 ml). The reaction mixture was stirred at -4° C. for 30 minutes, allowed to warm to room temperature over 30 minutes and stirred at room temperature for 15 minutes. The reaction mixture was concentrated in vacuo, the residual red oil dissolved in methanol (60 ml) and heated at reflux for 40 minutes. The mixture was allowed to cool, concentrated in vacuo and the residue triturated with ether to give a title compound in two crops (3.54 g, 65%), m.p. 203°-205° C.; (Found: C, 48.33; H, 4.44; N, 16.31. C17H19ClF3N5O2. 0.25H2O requires C, 48.35; H, 4.65; N, 16.58%); δH (360MHz, DMSO-d6) 1.72-1.96 (4H, m), 2.85 (1H, m), 3.11 (3H, m), 4.00 (3H, s, ArOCH3), 4.99 (2H, m, 2-CH2, 6.64 (1H, br s, 4-CH=), 7.38 (1H, d, J 8.9Hz, 3'-H), 7.65 (1H, d, J 2.5Hz, 6'-H), 7.76 (1H, dd, J 8.9, 2.5Hz, 4'-H); m/z (ES+) 382 ([M+H]+).

reactant | 1-Chloroethyl chloroformate | 17.6 mmol, 1.9 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | 7-benzyl-3-(2-methoxy-5-(5-trifluoromethyl-1H-tetrazol-1-yl)phenyl)-1-oxa-7-azaspiro[4,5]dec-3-ene | 13.07 mmol, 6.16 g | C(C1=CC=CC=C1)N1CC2(C=C(CO2)C2=C(C=CC(=C2)N2N=NN=C2C(F)(F)F)OC)CCC1 | C24H24F3N5O2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 3-(2-Methoxy-5-(5-trifluoromethyl-1H-tetrazol-1-yl)phenyl)-1-oxa-7-azaspiro[4,5]dec-3-ene hydrochloride | Cl.COC1=C(C=C(C=C1)N1N=NN=C1C(F)(F)F)C=1COC2(C1)CNCCC2 | InChI=1S/C17H18F3N5O2.ClH/c1-26-14-4-3-12(25-15(17(18,19)20)22-23-24-25)7-13(14)11-8-16(27-9-11)5-2-6-21-10-16;/h3-4,7-8,21H,2,5-6,9-10H2,1H3;1H
